US08314232B2
B. Preparation of N1-(3-Fluoro-4-hydroxyphenyl)-N1-(4-fluorophenyl)-1,1-cyclopropanedicarboxamide
To a solution of 1-{[(4-fluorophenyl)amino]carbonyl}cyclopropanecarboxylic acid (21 g, 94.17 mmol) and DMF (0.11 mL) in THF (147 mL) was added oxalyl chloride (8.37 mL, 98.88 mmol) slowly to maintain a temperature in the range of 4° C. to 15° C. The solution was stirred at room temperature for about 2 h, then slowly added to a chilled (−10° C.) solution of 4-amino-2-fluoro phenol (14.05 g, 110.65 mmol) and 2,6-lutidine (21.90 mL) in THF (147 mL) over ˜45 min. The temperature was maintained at or below 0° C. throughout the addition. The suspension was stirred for 0.5-1 h at 0° C. EtOAc (210 mL) and H2O (147 mL) were added and the layers were separated. 1N HCl (105 mL) was added to the organic portion and the layers separated. 5% NaHCO3 (105 mL) was added to the organic portion and the layers separated. The solution was dried over Na2SO4 and concentrated to dryness. EtOAc (42 mL) was added to the residue and the resulting suspension was stirred at 55° C. for 1 h and cooled to 20° C. The suspension was stirred at room temperature overnight then cooled to 0-5° C. with stirring for 2-3 h. The solid was isolated by filtration and the cake was washed with 1:2 EtOAc/heptane (21 mL). The solid was dried under reduced pressure at 55° C. to give 28.43 g of the desired product (yield: 91%).

reactant | 1-{[(4-fluorophenyl)amino]carbonyl}cyclopropanecarboxylic acid | 94.17 mmol, 21 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | oxalyl chloride | 98.88 mmol, 8.37 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-amino-2-fluoro phenol | 110.65 mmol, 14.05 g | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | 2,6-lutidine | 21.90 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | THF | 147 mL | C1CCOC1 | C4H8O
solvent | THF | 147 mL | C1CCOC1 | C4H8O
solvent | H2O | 147 mL | O | H2O
solvent | EtOAc | 210 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 0.11 mL | CN(C)C=O | C3H7NO
product | N1-(3-Fluoro-4-hydroxyphenyl)-N1-(4-fluorophenyl)-1,1-cyclopropanedicarboxamide | 28.43 g, yield: 91% | FC=1C=C(C=CC1O)N(C(=O)C1(CC1)C(=O)N)C1=CC=C(C=C1)F | C17H14F2N2O3
